US06391874B1
5-(4-Methyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)-2-[tri(n-butyl)stannyl]furan
2-(4-Methyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)furan (2.0 g, 10.2 mmol) was dissolved in THF (20 ml) and the solution was cooled to −78° C. n-BuLi (1.6M solution in hexanes, 7.7 ml, 12.32 mmol) was added and the mixture stirred at −78° C. for 30 min, allowed to warm to 0° C. for 20 min. and then recooled to −78° C. The tributyltin chloride (3.5 ml, 4.68 g, 14.4 mmol) was added and stirring was continued at −78° C. for 15 min. The mixture was allowed to warm gradually to room temperature and stirring continued for three days. The reaction was quenched by the addition of water, and extracted with ethyl acetate. This solution was washed with water, dried (MgSO4), and concentrated in vacuo to give the title compound as a yellow oil (4.7 g, 9.7 mmol, 95%); δH [2H6]DMSO 6.52 (1H,d), 6.38 (1H, d), 3.96 (6H,s), 0.77-1.63 (30H,m).

reactant | 2-(4-Methyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)furan | 10.2 mmol, 2.0 g | CC12COC(OC1)(OC2)C=2OC=CC2 | C10H12O4
reactant | n-BuLi | 12.32 mmol, 1.6M, 7.7 ml | [Li]CCCC
reactant | tributyltin chloride | 14.4 mmol, 3.5 ml, 4.68 g | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-(4-Methyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)-2-[tri(n-butyl)stannyl]furan | 9.7 mmol, 4.7 g, 95% | CC12COC(OC1)(OC2)C2=CC=C(O2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C10H11O4.3C4H9.Sn/c1-9-5-12-10(13-6-9,14-7-9)8-3-2-4-11-8;3*1-3-4-2;/h2-3H,5-7H2,1H3;3*1,3-4H2,2H3;
